US07094801B2
Ex-45A: 2-Methoxy-5-(thiophen-2-yl)-benzaldehyde was prepared from 5-bromo-2-methoxybenzaldehyde and thiophene-2-boronic acid in a similar manner as described in Ex-3A. 1H NMR (CDCl3) δ 10.49 (s, 1H), 8.07 (d, J=3 Hz, 1H), 7.79 (dd, J=3, 9.0 Hz, 1H), 7.28–7.26 (m, 2H), 7.09–7.06 (m, 1H), 7.02 (d, J=9 Hz, 1H), 3.97 (s, 3H).

reactant | 5-bromo-2-methoxybenzaldehyde | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
reactant | thiophene-2-boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 2-Methoxy-5-(thiophen-2-yl)-benzaldehyde | COC1=C(C=O)C=C(C=C1)C=1SC=CC1 | C12H10O2S
